US08030500B2
4-Fluoro-1-(2-fluoro-5-(5-fluoropyridin-3-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 1 in 41% yield, starting from 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine (80 mg, 0.19 mmol) and 5-fluoropyridin-3-ylboronic acid (35.4 mg, 0.25 mmol).

reactant | 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 0.19 mmol, 80 mg | BrC=1C=CC(=C(C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C)F | C20H14BrF2N3
reactant | 5-fluoropyridin-3-ylboronic acid | 0.25 mmol, 35.4 mg | FC=1C=C(C=NC1)B(O)O | C5H5BFNO2
product | 4-Fluoro-1-(2-fluoro-5-(5-fluoropyridin-3-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 41% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C)C1=C(C=CC(=C1)C=1C=NC=C(C1)F)F)N | C25H17F3N4
